US07612067B2
Preparation of 3-[3,4-dimethyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a flask containing 3-(5-bromo-3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.10 g, 0.25 mmol) and PdCl2(dppf) (9 mg, 0.012 mmol) is added a solution of 0.5 M 6-methyl-2-pyridylzinc bromide in THF (0.98 mL, 0.49 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with sat. NH4Cl (30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-30% EtOAc/hexane gradient) furnish the title compound (0.029 g, 0.069 mmol, 29%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 1.72-1.92 (m, 4H), 2.04 (s, 3H), 2.45 (s, 3H), 2.47 (s, 3H), 2.50 (s, 3H), 2.59 (s, 3H), 3.29-3.38 (m, 1H), 6.66 (s, 1H), 7.04 (d, J=8.0 Hz, 1H), 7.37 (d, J=7.8 Hz, 1H), 7.60 (d, J=8.0, 7.8 Hz, 1H). LC/MS (m/z): calcd. for C25H30N4S (M+H)+: 419.6; found: 419.4.

reactant | 3-(5-bromo-3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.25 mmol, 0.10 g | BrC1=C(C(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C)C | C19H24BrN3S
reactant | 6-methyl-2-pyridylzinc bromide | 0.5 M | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | 0.49 mmol, 0.98 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.012 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[3,4-dimethyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.069 mmol, 0.029 g, 29% | CC1=C(SC(=C1C)C1=NC(=CC=C1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C25H30N4S
